* C:\Users\sophi\OneDrive\Documents\Limbo\Electrical\Projects\EMG_Sensor\firstAmplification.asc
V1 N008 0 PULSE(0 8m 0 .025 .025 0 .2)
A1 N005 N005 0 0 0 0 N006 0 MODULATOR mark=50k space=0
V2 N007 N008 PULSE(0 4m .15 .03 .02 0 .22)
V3 N005 N007 PULSE(0 2m .05 .01 .005 0 .11)
V4 EMG+ N006 SINE(0 20m 60 0 0 0)
V5 EMG- 0 SINE(0 20m 60 0 0 0)
R1 N003 N004 100k
V6 VCC 0 5
V7 -VCC 0 -5
R2 EMG+ 0 10Meg
R3 EMG- 0 10Meg
R4 N001 EMG_RAW 10k
R5 N002 N001 150k
XU3 N003 EMG- EMG+ -VCC 0 EMG_RAW VCC N004 LT1168
XU4 0 N001 VCC -VCC N002 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
.tran 1
* Positive Supply Voltage
* Negative Supply Voltage
* EMG Signal Electrode Simulation
* EMG Reference Electrode Simulation
* Electrical Noise
* Electrical Noise
.lib LTC.lib
.lib UniversalOpamps2.sub
.backanno
.end
