* C:\Users\Ryan\Downloads\BMERobotics4thOrderNotch.asc
C1 0 N008 .25n
C2 N002 N001 .5n
V1 N007 0 0 AC 1
XU1 N002 N008 N002 opamp Aol=100K GBW=10Meg
R1 N001 N007 10k
R2 N008 N001 10k
C3 0 N009 .25n
C4 LowPassOut N003 .5n
XU2 LowPassOut N009 LowPassOut opamp Aol=100K GBW=10Meg
R3 N003 N002 10k
R4 N009 N003 10k
C5 N004 LowPassOut 10n
C6 N010 N004 10n
XU3 N005 N010 N005 opamp Aol=100K GBW=10Meg
R5 N010 0 750
R6 N005 N004 375
C7 N006 N005 10n
C8 N011 N006 10n
XU4 HighPassOut N011 HighPassOut opamp Aol=100K GBW=10Meg
R7 N011 0 750
R8 HighPassOut N006 375
XU7 N012 HighPassOut GainOut opamp Aol=100K GBW=10Meg
R14 GainOut N012 9k
R15 0 N012 1k
.lib opamp.sub
* 4th Order Butterworth Lowpass (Two cascaded 2nd order LP):
* 4th Order Butterworth Highpass (Two cascaded 2nd order HP):
.ac dec 100 10000 100000
.backanno
.end
